US09212182B2
The following compounds were made via method 65. A vial was charged with 1-(4-bromo-5-chloro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.300 g, 0.587 mmol), (4-chloro-3-methylphenyl)boronic acid (0.150 g, 0.881 mmol), potassium carbonate (0.244 g, 1.762 mmol), and Pd(Ph3P)4 (0.068 g, 0.059 mmol). The vial was flushed with Ar (g), then 1,4-dioxane (2.2 mL) and water (0.73 mL) were added. The vial was sealed and heated to 90° C. for 2 h. The mixture was cooled, quenched with NH4Cl and extracted with EtOAc (5×). The combined organic extracts were concentrated, dried over magnesium sulfate and concentrated. The residue was purified by chromatography on silica gel (40-g Ultra SNAP column, 25-g silica gel loading column, 0-50% EtOAc/Heptane) to give 1-(2,4′-dichloro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide. This material was purified by chiral SFC on Chiralpak AS-H column (25% MeOH/75% CO2) to give (P)-1-(2,4′-dichloro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide as peak 1 and (M)-1-(2,4′-dichloro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide as peak 2, both as off-white solids. Data for peak 1: 1H NMR (400 MHz, DMSO-d6) δ=11.68 (br. s., 1H), 8.66 (s, 1H), 8.35 (d, J=1.96 Hz, 1H), 8.23 (d, J=9.68 Hz, 1H), 7.86 (dd, J=2.10, 8.95 Hz, 1H), 7.67 (s, 1H), 7.55-7.61 (m, 2H), 7.44 (dd, J=1.71, 8.27 Hz, 1H), 7.32 (s, 1H), 6.77-6.88 (m, 2H), 6.41 (d, J=1.66 Hz, 1H), 3.73 (s, 3H), 2.44 (s, 3H). m/z (ESI) 557.1 (M+H)+. Data for peak 2: 1H NMR (400 MHz, DMSO-d6) δ=11.68 (br. s., 1H), 8.63 (br. s., 1H), 8.33 (d, J=1.86 Hz, 1H), 8.22 (d, J=9.68 Hz, 1H), 7.82-7.88 (m, 1H), 7.67 (s, 1H), 7.57-7.60 (m, 2H), 7.41-7.47 (m, 1H), 7.32 (s, 1H), 6.77-6.85 (m, 2H), 6.39 (s, 1H), 3.72 (s, 3H), 2.44 (s, 3H). m/z (ESI) 557.1 (M+H)+.

reactant | 1-(4-bromo-5-chloro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.587 mmol, 0.300 g | BrC1=CC(=C(C=C1Cl)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC | C19H13BrClN3O5S
reactant | (4-chloro-3-methylphenyl)boronic acid | 0.881 mmol, 0.150 g | ClC1=C(C=C(C=C1)B(O)O)C | C7H8BClO2
reactant | potassium carbonate | 1.762 mmol, 0.244 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(Ph3P)4 | 0.059 mmol, 0.068 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2,4′-dichloro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | ClC1=C(C=C(C(=C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC)C1=CC(=C(C=C1)Cl)C | C26H19Cl2N3O5S
